US03984336
β-(1-Methyl-1-propylmercapto)propionitrile was prepared according to the procedure of Example 1 using 1-methyl-1-propanethiol (25.0 g; 0.28 moles), acrylonitrile (14.9 g; 0.28 moles) and sodium methoxide (0.5 g).

reactant | 1-methyl-1-propanethiol | 0.28 moles, 25.0 g | CC(CC)S | C4H10S
reactant | acrylonitrile | 0.28 moles, 14.9 g | C(C=C)#N | C3H3N
reactant | sodium methoxide | 0.5 g | C[O-].[Na+]
product | β-(1-Methyl-1-propylmercapto)propionitrile | CC(CC)SCCC#N | C7H13NS
